* C:\Users\Daemon\Documents\GitHub\audion-receiver-4\audion-receiver-4.asc
* Generated by LTspice 24.1.10 for Windows.
Q2 N007 N017 N019 0 BC547C
R8 N001 N007 4.7k
R§POT10k N001 N005 10k
R7 N017 N016 10k
D1 N016 0 1N4148
R9 N019 0 180
V1 carrier 0 SINE(0 1 450k) AC 1
V2 modulator 0 SINE(1 0.7 5k)
B1 AM-signal 0 V=V(carrier)*V(modulator)*0.001
V3 N001 0 9V
R10 N009 N008 1k
C7 N010 N009 1µ
J2 N003 N010 N012 BF245A
R11 0 N010 470k
R13 0 N012 330
R12 N003 N001 1.5k
C8 0 N012 10µ
C9 N004 N003 4.7µ
R§LOAD 0 N004 2k
C4 0 N019 10µ
R5 N001 N011 1k
C1 N006 AM-signal 100n
R3 N014 N018 220k
J1 N001 N006 N013 BF245A
R2 N013 0 1k
C2 N014 N013 22n
R1 0 N006 1Meg
Q1 N018 N014 N011 0 BC557C
L1 N018 0 330µ
C10 N018 0 {Cvar}
L2 AM-signal 0 330µ
C11 AM-signal 0 {Cvar}
D4 0 N006 BAT54
D5 N006 0 BAT54
C12 N001 0 10µ
C13 N001 0 100n
D2 0 N001 1N4148
R4 N005 N016 470
C6 N009 0 10n
R6 N008 N007 100
C5 N008 0 220p
Q3 N002 N015 N020 0 BC547C
R14 N001 N002 1k
R15 N020 0 820
C14 N015 N018 1n
R16 N002 N015 470k
C3 N017 N002 1n
.model D D
.lib C:\Users\Daemon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Daemon\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Daemon\AppData\Local\LTspice\lib\cmp\standard.jft
;.tran 0 25m 24m
.MODEL BF245A NJF(
+ VTO=-1.7372
+ BETA=1.16621m
+ BETATCE=-0.5
+ LAMBDA=1.77211E-2
+ RD=9.01678
+ RS=9.01678
+ CGS=2.20000p
+ CGD=2.20000p
+ PB=7.80988E-1
+ IS=2.91797E-16
+ XTI=3
+ AF=1
+ FC=0.5
+ N=1
+ NR=2
+ MFG=PHILIPS)
* Input stage
* Tuned RF preamplifier
* Audion with filter
* Output stage
* GND & Earth
.step param Cvar list 10p 100p 200p 300p
* f0 (L = 330u, C = 10p) = 2.77MHz\nf0 (L = 330u, C = 200p) = 619kHz\nf0 (L = 330u, C = 400p) = 438kHz\n(in this simulation the carrier frequenc: 450kHz)
* common axis
* PS stage
* Lin
;.param Cvar=200p
.ac dec 1001 400k 2.5Meg
.backanno
.end
