* C:\Users\Daemon\Documents\GitHub\audion-receiver-4\audion-receiver-4.asc
* Generated by LTspice 24.1.10 for Windows.
Q2 N009 N008 N019 0 BC547C
R8 N001 N009 4.7k
R§POT10k N001 N003 10k
R7 N008 N016 10k
D1 N016 0 1N4148
R9 N019 0 180
V1 carrier 0 SINE(0 1 450k) AC 1
V2 modulator 0 SINE(1 0.7 5k)
B1 AM-signal 0 V=V(carrier)*V(modulator)*0.001
V3 N001 0 9V
R10 N010 N009 1k
C7 N011 N010 1µ
J2 N004 N011 N013 BF245A
R11 0 N011 470k
R13 0 N013 330
R12 N004 N001 1.5k
C8 0 N013 10µ
C9 N005 N004 4.7µ
R§LOAD 0 N005 2k
C4 0 N019 10µ
R5 N001 N012 2.2k
C1 N006 AM-signal 100n
R3 N015 N017 220k
J1 N001 N006 N014 BF245A
R2 N014 0 1k
C2 N015 N014 22n
R1 0 N006 1Meg
Q1 N017 N015 N012 0 BC557C
L1 N017 0 300µ
C10 N017 0 {Cvar}
L2 AM-signal 0 300µ
C11 AM-signal 0 {Cvar}
D4 0 N006 BAT54
D5 N006 0 BAT54
C12 N001 0 10µ
C13 N001 0 100n
D2 0 N001 1N4148
R4 N003 N016 470
C6 N010 0 10n
C5 N009 0 4.7n
Q3 N007 N018 N020 0 BC547C
R14 N002 N007 330
R15 N020 0 2.2k
C14 N018 N017 1n
R16 N007 N018 470k
C3 N008 N007 47p
R§POT1KL N001 N002 1000
L3 N009 N009 47µ
C15 N017 N015 4.7p
.model D D
.lib C:\Users\Daemon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Daemon\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Daemon\AppData\Local\LTspice\lib\cmp\standard.jft
;.tran 0 25m 24m
.MODEL BF245A NJF(
+ VTO=-1.7372
+ BETA=1.16621m
+ BETATCE=-0.5
+ LAMBDA=1.77211E-2
+ RD=9.01678
+ RS=9.01678
+ CGS=2.20000p
+ CGD=2.20000p
+ PB=7.80988E-1
+ IS=2.91797E-16
+ XTI=3
+ AF=1
+ FC=0.5
+ N=1
+ NR=2
+ MFG=PHILIPS)
* Input stage
* Tuned RF preamplifier
* Audion with filter
* Output stage
* GND & Earth
.step param Cvar list 10p 100p 200p 300p
* f0 (L = 330u, C = 10p) = 2.77MHz\nf0 (L = 330u, C = 200p) = 619kHz\nf0 (L = 330u, C = 400p) = 438kHz\n(in this simulation the carrier frequenc: 450kHz)
* common axis
* PS stage
* Lin
;.param Cvar=300p
.ac dec 1001 100k 10Meg
.backanno
.end
